US04236004
7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-(2-propenyl)pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester
To 16.3 g. (0.057 mole) of 4-(2-propenylamino)-2-phenyl-5-pyrimidine carboxylic acid ethyl ester in diethyl ether was added 4.3 g. (0.029 mole) of ethyl malonyl chloride and then stirred 3 hours at room temperature. The reaction was then filtered and stripped to dryness and the residue was added to a solution of 1.3 g. (0.057 mole) of Na in ethanol and stirred at room temperature for 10 minutes. Water was added until the reaction became clear and then acidified with HCl. This solution was chilled in ice and the resulting solid was removed by filtration. Recrystallization from ethyl acetate gave 0.55 g. of title product with m.p. 174°-175° C.

reactant | 4-(2-propenylamino)-2-phenyl-5-pyrimidine carboxylic acid ethyl ester | 0.057 mole | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NCC=C | C16H17N3O2
reactant | ethyl malonyl chloride | 0.029 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | Water | O | H2O
reactant | HCl | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 7,8-dihydro-5-hydroxy-7-oxo-2-phenyl-8-(2-propenyl)pyrido[2,3-d]-pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CC=C)O | C19H17N3O4
